Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5].[O:6]=[C:7]([H:8])[H:9],1.41304698332
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8][O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],0.8951468870799999
[H:1][O:2][C:3]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14],-1.4587804504
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[H:9],-3.98659502628
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],0.349495776029
[H:1][O:2][C@@:3]([C:4]([H:5])([H:6])[H:7])([O:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C@:9]1([H:10])[C:11]([H:12])[H:13],0.049182923960000006
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],6.70835779
[H:13].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.982741574
[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-2.04643858686
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.98566462181
[H:5].[O:1]=[C:2]([H:3])[C:4]#[C:6][O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9],-2.66685408393
[C:6][H:7].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7],-2.36713093256
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],5.16432742149
[H:13].[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.05901978378
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.26319939324
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.73722314282
[H:1][C:2]([H:3])=[C:13]([C:10]([O:9][C:6]([C:4]([H:5])[H:15])([H:7])[H:8])([H:11])[H:12])[H:14]>>[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.92869636275
[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.43057045482
[C:7]([H:8])[H:9].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-3.67163419764
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.60957640386
[C:5](=[C:6]([H:7])[H:8])[H:10].[H:1][O:2][C:3]([H:4])=[C:9]=[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-2.5244006121
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],4.94909682727
[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8].[H:9],2.9472745645800003
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1]([C:2][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:3][H:4],3.09679148262
[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-7.04035605037
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]([O:3])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.88310230667
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],3.64289316471
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@:8]12[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5](=[C:6])[C:8](=[O:7])[C:9]([H:10])([H:11])[H:12],-0.16525029229
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.81264933374
